US07622474B2
A. Synthesis of (tert-butoxy)-N-(5-nitro(2-pyridyl))carboxamide
To a solution of 2-amino-5-nitropyridine (0.555 g, 4 mmol) in THF (10 mL) was added 1M Na MDS in THF (8 mL, 8 mmol). The resulting dark red suspension was stirred for 15 min, followed by addition of a solution of Boc anhydride (0.87 mL, 3.8 mmol) in THF (5 mL). The reaction mixture was stirred at room temp for 21 hr, dilute with EtOAc, washed with 1N HCl and brine, dried and concentrated in vacuo to give desired compound (0.63 g, 70%). ES-MS (M+H)+=240, (M-tBu+H)+=184.

reactant | 2-amino-5-nitropyridine | 4 mmol, 0.555 g | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
reactant | Boc anhydride | 3.8 mmol, 0.87 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 8 mmol, 8 mL | C1CCOC1 | C4H8O
product | (tert-butoxy)-N-(5-nitro(2-pyridyl))carboxamide | 0.63 g, 70% | C(C)(C)(C)OC(=O)NC1=NC=C(C=C1)[N+](=O)[O-] | C10H13N3O4
